US04496560
A solution of 3-(2-amino-thiazol-5-yl)-2-benzhydryloxycarbonyl-7-t-butoxycarbonylamino-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene (4 g) in tetrahydrofuran (50 cc) is treated with dimethoxy(dimethylamino)methane (1.13 g). The reaction mixture is stirred for 25 minutes at 20° C., then diluted with ethyl acetate (150 cc), washed with distilled water (4×150 cc) and with a saturated sodium chloride solution (150 cc) and dried ove magnesium sulphate. The residue obtained after evaporation of the solvent under reduced pressure (30 mm Hg; 4 kPa) at 30° C. is chromatographed on a column (height: 28 cm; diameter: 5 cm) of silica gel (0.04-0.06 mm), elution being carried out under a pressure of 0.6 bar (60 kPa) with ethyl acetate, and 100 cc fractions being collected. Fractions 9 to 23, containing the pure product, are combined and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 30° C. 2-Benzhydryloxycarbonyl-7-t-butoxycarbonylamino-3-(2-dimethylaminomethyleneamino-thiazol-5-yl)-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene (E-form) (2.25 g) is obtained in the form of an orange froth whose characteristics are identical to those of the product obtained in A.

reactant | 3-(2-amino-thiazol-5-yl)-2-benzhydryloxycarbonyl-7-t-butoxycarbonylamino-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene | 4 g | NC=1SC(=CN1)C1=C(N2C(C(C2SC1)NC(=O)OC(C)(C)C)=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C28H28N4O5S2
reactant | dimethoxy(dimethylamino)methane | 1.13 g | COC(N(C)C)OC | C5H13NO2
solvent | tetrahydrofuran | 50 cc | O1CCCC1 | C4H8O
solvent | ethyl acetate | 150 cc | C(C)(=O)OCC | C4H8O2
product | 2-Benzhydryloxycarbonyl-7-t-butoxycarbonylamino-3-(2-dimethylaminomethyleneamino-thiazol-5-yl)-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene | 2.25 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2SCC1C1=CN=C(S1)N=CN(C)C)NC(=O)OC(C)(C)C)=O | C31H33N5O5S2
